US04460580
A solution of 4.5 g of 5-(2-amino-2-methyl-propoxy)-salicylamide and 3.1 g of 2-phenyloxirane in 40 ml of dioxane is refluxed for 16 hours. The solvent is subsequently evaporated off under reduced pressure, and the residue is dissolved in 20 ml of 2N hydrochloric acid, and extracted with 50 ml of ether. The water phase is separated; it is rendered alkaline with concentrated ammonia, and the liberated base is extracted with 200 ml of ethyl acetate. Customary further processing yields a light-coloured foam, from which is obtained, by recrystallisation from isopropanol, α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-1,1-dimethyl-ethyl]-aminomethyl]-benzyl alcohol, m.p. 121°-123°. It forms a neutral fumarate, m.p. 209°-210° (from methanol).

reactant | 5-(2-amino-2-methyl-propoxy)-salicylamide | 4.5 g | NC(COC1=CC=C(C(C(=O)N)=C1)O)(C)C | C11H16N2O3
reactant | 2-phenyloxirane | 3.1 g | C1(=CC=CC=C1)C1OC1 | C8H8O
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-1,1-dimethyl-ethyl]-aminomethyl]-benzyl alcohol | C(N)(=O)C=1C=C(OCC(C)(C)NCC(C2=CC=CC=C2)O)C=CC1O | C19H24N2O4
